US04992576
3-[3-(Cyanomethyl)-4-(decyloxy)benzoyl]benzoic acid, ethyl ester
To a solution of 1.45 g of isophthalic acid, monoethyl ester monochloride in 25 ml of methylene chloride cooled to 0° C. by means of an external ice bath were added to 2.73 g aluminum chloride. After stirring for an hour, 1.87 g of 2-decyloxybenzyl cyanide were added. The reaction was stirred at 0° C. for 4 hours and then poured into ice water containing hydrochloric acid. After stirring for 1 hour, the layers were separated. The organic layer was washed with a saturated sodium bicarbonate solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by chromatography over silica gel eluting with a 5-30% ethyl acetate in hexane gradient. The appropriate fractions were pooled and concentrated in vacuo to provide 1.1 g of the title product as a colorless oil.

reactant | isophthalic acid, monoethyl ester monochloride | 1.45 g | [Cl-].C(C1=CC(C(=O)[O-])=CC=C1)(=O)OCC
reactant | aluminum chloride | 2.73 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-decyloxybenzyl cyanide | 1.87 g | C(CCCCCCCCC)OC1=C(CC#N)C=CC=C1 | C18H27NO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-(Cyanomethyl)-4-(decyloxy)benzoyl]benzoic acid, ethyl ester | 1.1 g | C(#N)CC=1C=C(C(=O)C=2C=C(C(=O)OCC)C=CC2)C=CC1OCCCCCCCCCC | C28H35NO4
